US07723330B2
Step B: Preparation of N-(3-fluoro-4-(3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-oxopyrrolidine-3-carboxamide:
A 100 mL round-bottomed flask was charged with N-(4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-oxopyrrolidine-3-carboxamide (22.3 mg, 0.046 mmol) and 2,2,2-trifluoroacetic acid (259.7 mg, 2.28 mmol). The reaction mixture was stirred at 60° C. until LC-MS showed that the starting material was consumed (8 hour). The CF3COOH was removed under reduced pressure and the residue purified by column (Silica gel, DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to give the desired product (14.9 mg, 88.6%). HPLC: >99% purity, 1.91 min (254 nm); LRMS (APCI neg) m/e 368 (M−1). 1H NMR (400 MHz, CD3OD) δ 8.25 (d, J=5.6 Hz, 1H), 7.85 (dd, J=12.4, 2.4 Hz, 1H), 7.43 (m, 1H), 7.37 (t, J=8.8 Hz, 1H), 6.25 (dd, J=5.6, 0.8 Hz, 1H), 3.52-3.38 (m, 2H), 3.31 (m, 1H), 2.71 (s, 3H), 2.52-2.59 (m, 1H), 2.38-2.44 (m, 1H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-oxopyrrolidine-3-carboxamide | 0.046 mmol, 22.3 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3C(NCC3)=O)F)C)C=C1 | C26H24FN5O4
reactant | 2,2,2-trifluoroacetic acid | 2.28 mmol, 259.7 mg | FC(C(=O)O)(F)F | C2HF3O2
product | N-(3-fluoro-4-(3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-oxopyrrolidine-3-carboxamide | 14.9 mg, 88.6% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2C)NC(=O)C2C(NCC2)=O | C18H16FN5O3
